US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2-methoxy-5-chloroaniline to yield 2-[(2-methoxy-5-chlorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2-methoxy-5-chloroaniline | COC1=C(N)C=C(C=C1)Cl | C7H8ClNO
product | 2-[(2-methoxy-5-chlorophenyl)amino]phenylacetic acid | COC1=C(C=C(C=C1)Cl)NC1=C(C=CC=C1)CC(=O)O | C15H14ClNO3
